US04052383
1-Benzhydryl-2-(α-aminobenzyl)azetidine
Add 5.0 g of 1-benzhydryl-2-benzimidoylazetidine to an ice cold suspension of 1.16 g of lithium aluminum hydride in 135 ml of dry ether. Stir the mixture at 0° C for 15 minutes, then allow the mixture to warm to room temperature and continue stirring for 18 hours. Cool the suspension to 0° C and cautiously quench by the successive addition of 1.25 ml of water, 1.75 ml of 10% aqueous sodium hydroxide, and 3.5 ml of water. Stir, filter and wash the precipitate with ether. Combine the ether washes with the original filtrate and wash the resultant solution successively with water and brine. Dry over anhydrous sodium sulfate, and remove ether in vacuo.

reactant | 1-benzhydryl-2-benzimidoylazetidine | 5.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)=N | C23H22N2
reactant | lithium aluminum hydride | 1.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 135 ml | CCOCC | C4H10O
product | 1-Benzhydryl-2-(α-aminobenzyl)azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)N | C23H24N2
